US06653313B2
C. Ethyl 3-(2-{[2-(1-pyrrolidinyl)ethoxy]methyl}phenyl)propanoate
A mixture of ethyl (2E)-3-(2-{[2-(1-pyrrolidinyl)ethoxy]methyl}phenyl)-2-propenoate (8.27 g, 27.3 mmol) and 5% Pd/C (800 mg) in ethanol (50 ml) was hydrogenated under a hydrogen balloon for 3 h The reaction mixture was filtered through a pad of celite and the resulting Pd/C on the celite pad was washed with ethanol. The filtrate was evaporated in vacuo to afford the titled compound (8.10 g, 97.2%) as a yellow oil.

reactant | ethyl (2E)-3-(2-{[2-(1-pyrrolidinyl)ethoxy]methyl}phenyl)-2-propenoate | 27.3 mmol, 8.27 g | N1(CCCC1)CCOCC1=C(C=CC=C1)/C=C/C(=O)OCC | C18H25NO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd/C | 800 mg | [Pd] | Pd
product | Ethyl 3-(2-{[2-(1-pyrrolidinyl)ethoxy]methyl}phenyl)propanoate | 8.10 g, 97.2% | N1(CCCC1)CCOCC1=C(C=CC=C1)CCC(=O)OCC | C18H27NO3
